US06492562B1
I. (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxy-5-phenylpentanoyl)]-2-benzoxazolone
Prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with 3-phenylpropanal. 1H-NMR (CDCl3, 400 MHz): δ 8.06 (m, 1H); 7.25 (m, 8H); 4.11 (dt, 1H, J=4,7); 3.96 (dq, 1H, J=3,7); 2.91 (m, 1H); 2.70 (m, 1H); 1.95 (m, 1H); 1.81 (m, 1H); 1.34 (t, 3H, J=7).

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | 3-phenylpropanal | C1(=CC=CC=C1)CCC=O | C9H10O
product | (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxy-5-phenylpentanoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](CCC2=CC=CC=C2)O | C19H19NO4
